US07767857B1
2,4,6-Trichloroaniline (TCA)
A 5-L, two-necked, round-bottomed flask equipped with magnetic stirbar was charged with 50 g freshly distilled aniline (0.54 mol) in 1 L MeCN. One neck was equipped with a reflux condenser and N2 purge, and the second neck was glass stoppered. The solution was brought to reflux. N-Chlorosuccimide (86 g, 1 equiv) was added through the glass-stoppered neck in one portion. The color of the reaction became purple-brown. After 1 h, a second addition of 86 g NCS (1 equiv) was made in one portion. After 1 h, NMR of the reaction mixture showed only traces of NCS remained in addition to formation of primarily 2,4-dichloroaniline. The final addition of 86 g NCS (1 equiv) was made in eight ˜10-g portions, reaction occurs with a vigorous exotherm. After the addition, TLC showed the reaction was complete. The mixture was cooled to room temperature and poured into 3 L vigorously stirred H2O. After stirring 1 h, the light purple solid was collected on a coarse-porosity glass frit, washed with 1 L H2O, and air-dried on the frit for 2 h. The crude was dissolved in 1 L Et2O and washed with 500 mL H2O and 500 mL brine. The organic layer was dried with anhydrous MgSO4 and filtered. The filtrate was treated with 11 g Darco G-60 for 1 h. The mixture was filtered through diatomaceous earth, and the solvent was rotary evaporated. The red-brown solid was dissolved in 1 L hexanes. The solution was filtered through 300 g SiO2 on a medium-porosity glass frit that removed most of the color. The filtrates were rotary evaporated, leaving 111.6 g of the title compound as a pale yellow solid that was >97% by 1 H NMR (88%). Recrystallization from EtOH gave the title compound in analytically pure form as soft, colorless needles. Mp 68-70° C., 77.5° C. δH (CDCl3): 7.13 (s, 2 H), 4.36 (bs, NH2); δC (CDCl3): 139.24, 127.81, 122.06, 119.92. Elemental analysis calculated for C6H4Cl3N: C, 36.68; H, 2.05; N, 7.13. Found: C, 36.87; H, 1.93; N, 7.07.

reactant | aniline | 0.54 mol | NC1=CC=CC=C1 | C6H7N
reactant | NCS | 86 g, 1 equiv | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | 2,4-dichloroaniline | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | NCS | 86 g, 1 equiv | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | H2O | O | H2O
solvent | MeCN | 1 L | CC#N | C2H3N
product | 2,4,6-Trichloroaniline | 111.6 g | ClC1=C(N)C(=CC(=C1)Cl)Cl | C6H4Cl3N
